US05100902
STAGE A: 6-Fluoro-3-[1-(1-indanylcarbonyl)-4-piperidyl]-1,2-benzisoxazole
4.2 g of carbonyldiimidazole are added to 3.7 g of 1-indanecarboxylic acid (Synthesis (1987) 845) dissolved in 15 ml of dichloromethane. After stirring for 1 hour 30 minutes at room temperature, 5 g of 6-fluoro-3-piperid-4-yl-1,2-benzisoxazole, dissolved in 10 ml of dichloromethane, are added. The mixture is stirred for 48 hours at room temperature and then concentrated to dryness and the residue is extracted with ethyl acetate. The organic phase is washed with hydrochloric acid, then with sodium bicarbonate solution and finally with water. It is dried over magnesium sulfate and concentrated. The oil obtained is used without further treatment.

reactant | carbonyldiimidazole | 4.2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-indanecarboxylic acid | 3.7 g | C1(CCC2=CC=CC=C12)C(=O)O | C10H10O2
reactant | 6-fluoro-3-piperid-4-yl-1,2-benzisoxazole | 5 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 6-Fluoro-3-[1-(1-indanylcarbonyl)-4-piperidyl]-1,2-benzisoxazole | FC1=CC2=C(C(=NO2)C2CCN(CC2)C(=O)C2CCC3=CC=CC=C23)C=C1 | C22H21FN2O2
